US04719200
N-t-butyloxycarbonyl-L-alanyl-L-prolyl-L-proline benzylester (5.0 g, 10.6 m mole) was dissolved in methanol (100 ml) and hydrogen gas was passed through the solution in the presence of the palladium carbon as a catalyst for 3 hours. The catalyst was removed by filtration and the solvent was distilled off under reduced pressure. Thus obtained residue was dissolved in water and the solution was freeze-dried to give N-t-butyloxycarbonyl-L-alanyl-L-prolyl-L-proline (4.04 g).

reactant | N-t-butyloxycarbonyl-L-alanyl-L-prolyl-L-proline benzylester | 5.0 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)C)=O)=O)=O | C25H35N3O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
product | N-t-butyloxycarbonyl-L-alanyl-L-prolyl-L-proline | 4.04 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C18H29N3O6
